US04366153
7-[2-(2-Formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer, 1.9 g) was treated with conc. hydrochloric acid (0.67 g) in a similar manner to that of Example 1-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer, 1.19 g).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 1.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCO)SC2=NN=NN2)C(=O)O)C1=O)=NOCC#C | C20H19N9O7S3
reactant | hydrochloric acid | 0.67 g | Cl | ClH
product | 7-[2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 1.19 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCO)SC2=NN=NN2)C(=O)O)C1=O)=NOCC#C | C19H19N9O6S3
